US07494992B2
Preparation 27: 3-(cyclopent-3-en-1-ylmethyl)pyridin-2(1H)-one
To a cloudy dispersion containing 3-(cyclopent-3-en-ylmethyl)-2-(methyloxy)pyridine (Preparation 28, 2.1 g, 11.1 mmol) and sodium iodide (4.1 g, 27.8 mmol) in anhydrous acetonitrile (25 ml) was added chlorotrimethylsilane (3.0 g, 27.8 mmol). A white precipitate formed which was stirred for 30 min at room temperature and then for 1 h at 70° C. The reaction mixture was cooled to room temperature and water was added, followed by ethyl acetate (200 ml), the organic layer washed with water (4×) and then with sodium hydrogen carbonate solution and brine before drying (Na2SO4) to give the title compound as a yellow solid (1.93 g, 100%).

reactant | 3-(cyclopent-3-en-ylmethyl)-2-(methyloxy)pyridine | 11.1 mmol, 2.1 g | C1(CC=CC1)CC=1C(=NC=CC1)OC | C12H15NO
reactant | sodium iodide | 27.8 mmol, 4.1 g | [I-].[Na+]
reactant | chlorotrimethylsilane | 27.8 mmol, 3.0 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | water | O | H2O
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 3-(cyclopent-3-en-1-ylmethyl)pyridin-2(1H)-one | 1.93 g, 100% | C1(CC=CC1)CC=1C(NC=CC1)=O | C11H13NO
